US08022062B2
Suspend 3-tert-butoxycarbonyl-7-chloro-6-[3-(1,3-dioxo-1,3-dihydroisoindol-2-yl)-propylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine (1.20 g, 2.39 mmol) in ethanol (53.2 mL), add hydrazine (0.150 mL, 4.78 mmol) and heat at 65° C. for 2 h. Cool to ambient temperature, filter from precipitate, and concentrate in vacuo to provide the 6-(3-aminopropylthio)-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine (861 mg, 97%). MS (APCI+) m/z: 371 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-[3-(1,3-dioxo-1,3-dihydroisoindol-2-yl)-propylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 2.39 mmol, 1.20 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCCCN2C(C1=CC=CC=C1C2=O)=O | C26H29ClN2O4S
reactant | hydrazine | 4.78 mmol, 0.150 mL | NN | H4N2
solvent | ethanol | 53.2 mL | C(C)O | C2H6O
product | 6-(3-aminopropylthio)-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 861 mg, 97% | NCCCSC1=C(C=CC=2CCN(CCC21)C(=O)OC(C)(C)C)Cl | C18H27ClN2O2S
